US07491720B2
(5) Synthesis of methyl 6-(3-benzoylthioureido)-4-bromopyridine-2-carboxylate
2.74 g of methyl 6-amino4-bromopyridine-2-carboxylate was dissolved in 15 ml of tetrahydrofuran and 1.63 ml of benzoyl isothiocyanate was added thereto, followed by stirring at room temperature for 13 hours. To the reaction mixture was added 40 ml of hexane. The resulting solid was filtered and washed with hexane. The obtained solid was dried in vacuo to give the title compound.

reactant | methyl 6-amino4-bromopyridine-2-carboxylate | 2.74 g | NC1=CC(=CC(=N1)C(=O)OC)Br | C7H7BrN2O2
reactant | benzoyl isothiocyanate | 1.63 ml | C(C1=CC=CC=C1)(=O)N=C=S | C8H5NOS
reactant | hexane | 40 ml | CCCCCC | C6H14
solvent | tetrahydrofuran | 15 ml | O1CCCC1 | C4H8O
product | methyl 6-(3-benzoylthioureido)-4-bromopyridine-2-carboxylate | C(C1=CC=CC=C1)(=O)NC(NC1=CC(=CC(=N1)C(=O)OC)Br)=S | C15H12BrN3O3S
